US20010011064A1
Butyl lithium (2.7 ml, 6.7 mmol, 2.5 M solution in hexane) is added to a solution of 1-bromo-4-trifluoromethyl benzene (1.0 ml, 7.3 mmol) in anhydrous diethyl ether (10 ml) at −20 ° C. The mixture is stirred for 60 min at −20 ° C. and for 60 min at 10° C. After cooling to −40° C. 4-methyl-2,3,5,6-tetrafluoropyridine (1.1 g, 6.6 mmol) is added. The resulting mixture is stirred for 120 min at −30 ° C. and then is allowed to warm to ambient temperature. After 2 days at ambient temperature the mixture is washed twice with saturated aqueous ammonium chloride. The layers are separated and the organic layer is dried with anhydrous magnesium sulfate and filtered. After removal of the solvents in vacuo, the crude product is purified by flash column chromatography (silica gel, pentane/ethyl acetate=9/1 by volume) yielding colorless crystals of 4-methyl-2,3,5-trifluoro-6-(4-trifluoromethylphenyl)pyridine (0.5 g,1.7 mmol) of mp. 52 ° C.

reactant | Butyl lithium | 6.7 mmol, 2.5 M, 2.7 ml | C(CCC)[Li]
reactant | 1-bromo-4-trifluoromethyl benzene | 7.3 mmol, 1.0 ml | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | 4-methyl-2,3,5,6-tetrafluoropyridine | 6.6 mmol, 1.1 g | CC1=C(C(=NC(=C1F)F)F)F | C6H3F4N
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 4-methyl-2,3,5-trifluoro-6-(4-trifluoromethylphenyl)pyridine | 1.7 mmol, 0.5 g | CC1=C(C(=NC(=C1F)C1=CC=C(C=C1)C(F)(F)F)F)F | C13H7F6N
